US09334245B2
(2S,4R)-5-Biphenyl-4-yl-4-t-butoxycarbonylamino-2-hydroxymethyl-2-methyl-pentanoic acid (125 mg, 302 μmol), HOBt (240 mg, 1.8 mmol), and EDCI (320 μL, 1.8 mmol) were dissolved in DCM and stirred for 2 minutes. N,N-Dimethylaminoethanol (304 μL, 3.0 mmol) was added and the resulting mixture was stirred at room temperature for 3 hours. The mixture was diluted with DCM and washed with saturated aqueous NaHCO3 solution. The organic layer was separated, dried, concentrated, then purified (Interchim reverse phase chromatography column; 5-70% MeCN in water with 0.5% TFA). The purified material was combined with MeCN (3.0 mL, 58 mmol) and 4 M HCl in dioxane (0.3 mL, 1.2 mmol) and the resulting mixture was stirred at room temperature for 30 minutes. The solvent was removed and azeotroped with toluene (2×) to yield (2S,4R)-4-amino-5-biphenyl-4-yl-2-hydroxymethyl-2-methyl-pentanoic acid 2-dimethylamino-ethyl ester.

reactant | (2S,4R)-5-Biphenyl-4-yl-4-t-butoxycarbonylamino-2-hydroxymethyl-2-methyl-pentanoic acid | 302 μmol, 125 mg | C1(=CC=C(C=C1)C[C@H](C[C@@](C(=O)O)(C)CO)NC(=O)OC(C)(C)C)C1=CC=CC=C1 | C24H31NO5
reactant | HOBt | 1.8 mmol, 240 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 1.8 mmol, 320 μL | CCN=C=NCCCN(C)C | C8H17N3
reactant | N,N-Dimethylaminoethanol | 3.0 mmol, 304 μL | CN(C)CCO | C4H11NO
reactant | MeCN | 58 mmol, 3.0 mL | CC#N | C2H3N
reactant | HCl | 4 M | Cl | ClH
reactant | dioxane | 1.2 mmol, 0.3 mL | O1CCOCC1 | C4H8O2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (2S,4R)-4-amino-5-biphenyl-4-yl-2-hydroxymethyl-2-methyl-pentanoic acid 2-dimethylamino-ethyl ester | CN(CCOC([C@](C[C@@H](CC1=CC=C(C=C1)C1=CC=CC=C1)N)(C)CO)=O)C | C23H32N2O3
